US04260611
53.5 g 3-Chloro-1-phenyl-isoquinoline-4-aldehyde are suspended in 1.5 l of acetone and 500 ml of phosphate buffer of pH 7. At 40° C., 40 g of potassium permanganate are introduced portionwise within 2 hours and stirring is continued at this temperature for 2 hours. The excess potassium permanganate is destroyed with 10 g sodium hydrogenosulfite and the solution is concentrated to 500 ml and filtered. The filtrate is brought to pH 4 with concentrated hydrochloric acid followed by thorough extraction with acetic ester. Removal of the solvent in vacuo provides 41.1 g of 3-chloro-1-phenyl-isoquinoline-4 carboxylic acid having a melting point of 208° C.

reactant | 3-Chloro-1-phenyl-isoquinoline-4-aldehyde | 53.5 g | ClC=1N=C(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C16H10ClNO
reactant | phosphate | 500 ml | P(=O)([O-])([O-])[O-]
reactant | potassium permanganate | 40 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 1.5 l | CC(=O)C | C3H6O
product | 3-chloro-1-phenyl-isoquinoline-4 carboxylic acid | 41.1 g | ClC=1N=C(C2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C16H10ClNO2
